US05152824
5.75 g (58.9 mmol) of N,O-dimethylhydroxylamine hydrochloride was suspended in 300 ml of dichloromethane, and 11.9 g (118 mmol) of triethylamine was added thereto. Then, the mixture was cooled with ice, and a dichloromethane solution of 7.63 g of methylsulfamoyl chloride was dropwise added, and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off under reduced pressure. To the residue, 200 ml of benzene was added, and insoluble substance was filtered off. Then, the solvent was distilled off again under reduced pressure. By the distillation under reduced pressure, 4.4 g of N,N'-dimethyl-N'-methoxysulfamide was obtained (boiling point: 85°-88° C./1.9 mmHg).

reactant | N,O-dimethylhydroxylamine hydrochloride | 58.9 mmol, 5.75 g | Cl.CNOC
reactant | triethylamine | 118 mmol, 11.9 g | C(C)N(CC)CC | C6H15N
reactant | methylsulfamoyl chloride | 7.63 g | CNS(=O)(=O)Cl | CH4ClNO2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N,N'-dimethyl-N'-methoxysulfamide | 4.4 g | CNS(=O)(=O)N(OC)C | C3H10N2O3S
